US05994356
(39) 1-(4-Ethoxycarbonylmethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazin-3-one hydrochloride
Prepared from 4-[2-(1-tert-butyloxycarbonylpiperidin-4-yl)ethyl]-1-(4-ethoxycarbonylmethyloxyphenyl)piperazin-3-one and ethereal hydrochloric acid.

reactant | 4-[2-(1-tert-butyloxycarbonylpiperidin-4-yl)ethyl]-1-(4-ethoxycarbonylmethyloxyphenyl)piperazin-3-one | C(C)(C)(C)OC(=O)N1CCC(CC1)CCN1C(CN(CC1)C1=CC=C(C=C1)OCC(=O)OCC)=O | C26H39N3O6
reactant | hydrochloric acid | Cl | ClH
product | 1-(4-Ethoxycarbonylmethyloxyphenyl)-4-[2-(piperidin-4-yl)ethyl]piperazin-3-one hydrochloride | Cl.C(C)OC(=O)COC1=CC=C(C=C1)N1CC(N(CC1)CCC1CCNCC1)=O | InChI=1S/C21H31N3O4.ClH/c1-2-27-21(26)16-28-19-5-3-18(4-6-19)24-14-13-23(20(25)15-24)12-9-17-7-10-22-11-8-17;/h3-6,17,22H,2,7-16H2,1H3;1H
